US04071530
2.3: 4-Hydroxymethyl-1-methyl-pyrrolidone
A solution of 2.3g (106 m moles) of LiBH4 in 150 ml of diethyl ether was slowly added dropwise at +5° C to 17.0g (107 m mols) of 4-carbomethoxy-1-methyl-pyrrolidone in 20 ml of absolute diethyl ether. Stirring was continued for 2 hours at room temperature, then the mixture was acidified with 2N sulfuric acid (pH 2), the solvent and water were distilled off to a large extent in vacuo and the remaining residue was extracted with methylene chloride. The dried methylene chloride phase was concentrated and the residue was distilled in vacuo. 5 g of the compounds desired were obtained in a 98 % purity: nD20 : 1.4950.

reactant | LiBH4 | 2.3g | [Li+].[BH4-]
reactant | 4-carbomethoxy-1-methyl-pyrrolidone | C(=O)(OC)C1CC(N(C1)C)=O | C7H11NO3
reactant | sulfuric acid | 2N, pH 2 | S(O)(O)(=O)=O | H2O4S
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | 4-Hydroxymethyl-1-methyl-pyrrolidone | 5 g | OCC1CC(N(C1)C)=O | C6H11NO2
